US09403846B2
Step 1. Synthesis of methyl (2E)-5-cyclopropyl-5-(2,2-diethoxyethoxyl)pent-2-enoate (C34)
A solution of methyl prop-2-enoate (69.5 mL, 767 mmol) and benzylidene[1,3-bis(2,4,6-trimethylphenyl)imidazolidin-2-ylidene]dichloro(tricyclohexylphosphine)ruthenium (Grubbs catalyst, second generation) (1.30 g, 1.53 mmol) in dichloromethane (102 mL) was added to a solution of [1-(2,2-diethoxyethoxyl)but-3-en-1-yl]cyclopropane (C15) (7.00 g, 30.7 mmol) in dichloromethane (102 mL), and the reaction mixture was stirred at room temperature for 3 hours. After removal of solvent under reduced pressure, the residue was mixed with diethyl ether and filtered through Celite. The filter pad was washed with additional diethyl ether, and the combined filtrates were concentrated in vacuo. Purification using silica gel chromatography (Gradient: 0% to 30% ethyl acetate in heptane) afforded the product as an oil. Yield: 6.0 g, 21 mmol, 68%. 1H NMR (400 MHz, CDCl3) δ 7.04 (dt, J=15.7, 7.4 Hz, 1H), 5.85-5.91 (m, 1H), 4.59 (dd, J=5.4, 5.2 Hz, 1H), 3.64-3.74 (m, 6H), 3.52-3.61 (m, 2H), 3.44 (dd, J=10.3, 5.5 Hz, 1H), 2.76 (dt, J=8.5, 5.9 Hz, 1H), 2.51 (ddd, J=7.3, 5.9, 1.4 Hz, 2H), 1.19-1.24 (m, 6H), 0.78-0.89 (m, 1H), 0.57-0.66 (m, 1H), 0.37-0.52 (m, 2H), 0.03-0.11 (m, 1H).

reactant | methyl prop-2-enoate | 767 mmol, 69.5 mL | C(C=C)(=O)OC | C4H6O2
reactant | [1-(2,2-diethoxyethoxyl)but-3-en-1-yl]cyclopropane | 30.7 mmol, 7.00 g | C(C)OC(COC(CC=C)C1CC1)OCC | C13H24O3
solvent | dichloromethane | 102 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 102 mL | ClCCl | CH2Cl2
product | methyl (2E)-5-cyclopropyl-5-(2,2-diethoxyethoxyl)pent-2-enoate | C1(CC1)C(C/C=C/C(=O)OC)OCC(OCC)OCC | C15H26O5
